US04985419
Thionyl chloride (0.5 cc) is introduced during 5 minutes and with stirring into a suspension of 10-[(2RS)-1-(1-pyrrolidinyl)-2-propyl]-2-phenothiazinecarboxylic acid hydrochloride (1 g) in methylene chloride (30 cc) while the temperature is maintained in the vicinity of 5° C. Stirring is continued for 40 minutes while heating to a temperature in the region of 30° C., and the yellow solution obtained is concentrated to dryness under reduced pressure (30 mm Hg; 4kPa) at 40° C. The residue is dissolved in methylene chloride (30 cc) and 3-methyl-2butenylamine (0.73 g) and triethylamine (0.84 cc) are added. Stirring is maintained for 30 minutes at 20° C. The reaction mixture is diluted with ethyl acetate (100 cc), washed successively with N aqueous sodium hydroxide solution (50 cc) and then with saturated aqueous sodium chloride solution (2×50 cc), dried over magnesium sulphate, filtered and concentrated to dryness under reduced pressure (30 mm Hg; 4 kPa) at 40° C. The oily orange residue (0.9 g) is dissolved in a mixture (30:70 by volume) (35 cc) of ethyl acetate and isopropyl ether, and a 0.3N solution (5.5 cc) of hydrochloric acid in isopropyl ether is added with stirring at 6° C. After one hour's stirring at 6° C., the solid formed is filtered off, washed with isopropyl ether (5 cc) and dried under reduced pressure (5 mm Hg; 0.67 kPa) at 40° C. to give N-(3-methyl-2-butenyl)-10-[(2RS)-1-(1-pyrrolidinyl)-2-propyl]-2-phenothiazinecarboxamide hydrochloride (0.52 g) in the form of a cream-coloured solid, m.p. about 150° C.

reactant | Thionyl chloride | 0.5 cc | S(=O)(Cl)Cl | Cl2OS
reactant | 10-[(2RS)-1-(1-pyrrolidinyl)-2-propyl]-2-phenothiazinecarboxylic acid hydrochloride | 1 g | Cl.N1(CCCC1)CC(C)N1C2=CC=CC=C2SC=2C=CC(=CC12)C(=O)O
solvent | methylene chloride | 30 cc | C(Cl)Cl | CH2Cl2
product | N-(3-methyl-2-butenyl)-10-[(2RS)-1-(1-pyrrolidinyl)-2-propyl]-2-phenothiazinecarboxamide hydrochloride | 0.52 g | Cl.CC(=CCNC(=O)C1=CC=2N(C3=CC=CC=C3SC2C=C1)C(CN1CCCC1)C)C | InChI=1S/C25H31N3OS.ClH/c1-18(2)12-13-26-25(29)20-10-11-24-22(16-20)28(19(3)17-27-14-6-7-15-27)21-8-4-5-9-23(21)30-24;/h4-5,8-12,16,19H,6-7,13-15,17H2,1-3H3,(H,26,29);1H
